US04883807
A solution of the hydrochloride salt of the methyl ester of glycine (6.30 g) and potassium acetate (8.00 g) in water (10 ml) was added to glacial acetic acid (50 ml). The resulting mixture was heated to reflux, 2,5-dimethoxytetrahydrofuran (6.60 g) was added in one portion, and heating under reflux was continued for 4 hours. After cooling, the reaction mixture was neutralised with sodium bicarbonate and extracted with ethyl acetate. The extracts were washed with water, dried, concentrated under reduced pressure, and distilled at 125° C. and ca. 15 torr using a short-path distillation apparatus to give methyl pyrrol-1-ylacetate (2.62 g, 38% yield) as a colourless liquid, infrared (film) 1750 cm-1.

reactant | glycine | 6.30 g | NCC(=O)O | C2H5NO2
reactant | potassium acetate | 8.00 g | C(C)(=O)[O-].[K+]
reactant | 2,5-dimethoxytetrahydrofuran | 6.60 g | COC1OC(CC1)OC | C6H12O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | methyl pyrrol-1-ylacetate | 2.62 g, 38% yield | N1(C=CC=C1)CC(=O)OC | C7H9NO2
